US07335654B2
A mixture of 6-chloro-2-trifluoromethylpurine (45 mg, 0.20 mmol), dimethylamine (0.2 mL of a 2.0 M solution in tetrahydrofuran), triethylamine (60 mg, 0.6 mmol) and N,N-dimethylformamide (2 mL) was stirred at 85° C. for 12 hours. The solvent was removed under vacuum and the residue was dissolved in 25 mL of ethyl acetate, washed with 5% aqueous sodium bicarbonate (25 mL) and water (25 mL). The organic layer was concentrated and dried under vacuum to give crude 6-dimethylamino-2-trifluoromethylpurine (51 mg), which was used as such for the next reaction.

reactant | 6-chloro-2-trifluoromethylpurine | 0.20 mmol, 45 mg | ClC1=C2NC=NC2=NC(=N1)C(F)(F)F | C6H2ClF3N4
reactant | dimethylamine | CNC | C2H7N
reactant | triethylamine | 0.6 mmol, 60 mg | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-dimethylamino-2-trifluoromethylpurine | 51 mg | CN(C1=C2NC=NC2=NC(=N1)C(F)(F)F)C | C8H8F3N5
